US08071581B2
Step 1: 6-Bromo-8-methyl-quinoline
A mixture of 10 g of 4-bromo-2-methylaniline, 3.3 g of ferrous sulfate, 20.4 g of glycerol, 4.06 g of nitrobenzene and 11.5 ml of concentrated sulfuric acid was heated gently. After the first vigorous reaction, the mixture was boiled for 3 h under reflux and then evaporated to remove t nitrobenzene. The solution was added std. aq.NaHCO3 and extracted with dichloromethane, dried with Na2SO4 and concentrated to give solid. The solid was purified with flash column chromatography to return the title compound (9.5 g, 80%). 1H NMR (CDCl3, 300 MHz) δ 8.92 (m, 1H), 8.01 (m, 1H), 7.81 (d, 1H), 7.66 (m, 1H), 7.43 (m, 1H), 2.79 (s, 3H).

reactant | 4-bromo-2-methylaniline | 10 g | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | nitrobenzene | 4.06 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | sulfuric acid | 11.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | glycerol | 20.4 g | OCC(O)CO | C3H8O3
product | 6-Bromo-8-methyl-quinoline | BrC=1C=C2C=CC=NC2=C(C1)C | C10H8BrN
